US07196108B2
To a cold solution (0° C.) of 1-(7-bromo-benzo[1,3]dioxol-5-yl)-2-methyl-propan-1-ol (498 mg, 1.82 mmol) in dry dichloromethane (10 mL) was added triethylsilane (0.6 mL, 3.65 mmol). After 15 minutes, trifluoroacetic acid was added to the reaction and the mixture stirred at 0° C. for 45 minutes. Water was poured into the reaction mixture and the layers separated. The organic layer was further washed with water, aqueous NaHCO3 and brine, dried (MgSO4), filtered and evaporated. The residue was purified on silica gel (5% ethyl acetate in hexane) to give 242 mg of 4-bromo-6-isobutyl-benzo[1,3]dioxole (52%). 1H NMR (300 MHz; CDCl3): δ 0.90 (d, J=6.3 Hz, 6H), 1.81 (m, 1H), 2.39 (d, J=7.5 Hz, 2H), 6.01 (s, 2H), 6.58 (s, 1H), 6.76 (s, 1H).

reactant | 1-(7-bromo-benzo[1,3]dioxol-5-yl)-2-methyl-propan-1-ol | 1.82 mmol, 498 mg | BrC1=CC(=CC2=C1OCO2)C(C(C)C)O | C11H13BrO3
reactant | triethylsilane | 3.65 mmol, 0.6 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | Water | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-bromo-6-isobutyl-benzo[1,3]dioxole | 242 mg, 52% | BrC1=CC(=CC=2OCOC21)CC(C)C | C11H13BrO2
